Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
TRANSIENT ISCHEMIC ATTACKS
 
Major Surgical or Invasive Procedure:
RIGHT CAROTID ENDARTERECTOMY- Dr. ___ ___

 
History of Present Illness:
___ h/o HTN p/w R eye amaurosis fugax 3 weeks ago and transient 
left arm and leg numbness and weakness this morning, with CTA 
head/neck demonstrating high-grade ___ stenosis. Patient 
reports that 3 weeks ago he was in his usual state of health 
when he noticed that he had transient R eye vision loss, he 
described as "curtain being pulled" over the eye. His vision 
recovered and he attributed the event to his recent cataract 
surgery in the R eye.  

Today, he reports left arm and left leg weakness/numbness that 
occurred while he was at work around 10AM and resolved after one 
minute. He was standing at the time and does reports associated 
dizziness, having to hold onto railing with his right hand to 
keep from falling. He denies LOC, headstrike, or changes in 
speech. He presented to ___ at 12PM, was noted 
to be neurologically intact with CTA demonstrating ___ stenosis 
and he was thus transferred to BI. Patient otherwise denies 
fevers/chills, chest pain/SOB, changes in bowel habits, 
abdominal pain, dysuria. He denies previous radiation to the 
neck or neck surgery. 
 
Past Medical History:
PMHx: HTN

PSHx: ACL repair, back surgery, hernia repair (___), CCY 
(___), prostate resection (___), cataract surgery
 
Social History:
___
Family History:
Patient denies history of strokes in family.  His mother died of
complications of a cardiac procedure and father died of cancer. 
 
Physical Exam:
VS: 97.9 PO 149 / 69 75 17 95 RA
GENERAL: [x]NAD  []A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: [x]CTA b/l  []no respiratory distress  []abnormal
ABD: [x]soft  []Nontender  []appropriately tender 
[]nondistended  []no rebound/guarding  []abnormal
Neuro: CN ___ intact. ___ strength in UE and ___ bilaterally and
no pronator drift. 

 
Pertinent Results:
ADMISSION LABS
___ 07:50PM BLOOD WBC: 6.9 RBC: 4.39* Hgb: 12.2* Hct: 37.4*
MCV: 85 MCH: 27.8 MCHC: 32.6 RDW: 14.2 RDWSD: 44.___ 
___ 07:50PM BLOOD Glucose: 100 UreaN: 18 Creat: 1.0 Na: 141
K: 4.3 Cl: 106 HCO3: 23 AnGap: 12 
___ 07:50PM BLOOD ALT: 28 AST: 24 AlkPhos: 46 TotBili: 0.6 
___ 07:50PM BLOOD Albumin: 4.3 Calcium: 9.0 Phos: 3.3 Mg:
2.1 
___ 07:50PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Tricycl: NEG 

TCD report:
 Normal TCD evaluation. There was no evidence of
vasospasm and no microemboli were seen. Reverse flow pattern
observed in the ophthalmic artery consistent with
collateralization in the setting of right carotid high grade
stenosis

TTE:
Suboptimal image quality. Normal biventricular cavity sizes and
regional/global
biventricular systolic function. No valvular pathology or
pathologic flow identified. Normal
estimated pulmonary artery systolic pressure. No definite
structural cardiac source of embolism
identified.

___ 05:25AM BLOOD WBC-10.1* RBC-3.89* Hgb-10.9* Hct-33.4* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-14.7 RDWSD-46.2 Plt ___
___ 05:02AM BLOOD WBC-10.0 RBC-3.76* Hgb-10.5* Hct-32.1* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-14.3 RDWSD-44.4 Plt ___
___ 05:47AM BLOOD WBC-5.1 RBC-4.72 Hgb-13.1* Hct-40.1 
MCV-85 MCH-27.8 MCHC-32.7 RDW-14.2 RDWSD-44.2 Plt ___
___ 05:55AM BLOOD WBC-6.6 RBC-4.64 Hgb-12.9* Hct-39.2* 
MCV-85 MCH-27.8 MCHC-32.9 RDW-14.2 RDWSD-43.8 Plt ___
___ 07:50PM BLOOD WBC-6.9 RBC-4.39* Hgb-12.2* Hct-37.4* 
MCV-85 MCH-27.8 MCHC-32.6 RDW-14.2 RDWSD-44.0 Plt ___
___ 05:55AM BLOOD Neuts-57.4 ___ Monos-10.8 Eos-2.1 
Baso-0.8 Im ___ AbsNeut-3.79 AbsLymp-1.89 AbsMono-0.71 
AbsEos-0.14 AbsBaso-0.05
___ 07:50PM BLOOD Neuts-54.6 ___ Monos-8.2 Eos-1.7 
Baso-0.4 Im ___ AbsNeut-3.77 AbsLymp-2.41 AbsMono-0.57 
AbsEos-0.12 AbsBaso-0.03
___ 05:02AM BLOOD ___ PTT-20.3* ___
___ 05:25AM BLOOD Glucose-125* UreaN-12 Creat-1.0 Na-144 
K-4.2 Cl-107 HCO3-22 AnGap-15
___ 05:02AM BLOOD Glucose-130* UreaN-11 Creat-1.0 Na-141 
K-4.1 Cl-107 HCO3-25 AnGap-9*
___ 05:47AM BLOOD Glucose-113* UreaN-18 Creat-1.0 Na-144 
K-4.5 Cl-107 HCO3-25 AnGap-12
___ 05:55AM BLOOD Glucose-101* UreaN-16 Creat-1.0 Na-143 
K-4.6 Cl-107 HCO3-23 AnGap-13
___ 07:50PM BLOOD Glucose-100 UreaN-18 Creat-1.0 Na-141 
K-4.3 Cl-106 HCO3-23 AnGap-12
___ 05:55AM BLOOD ALT-28 AST-25 LD(LDH)-97 CK(CPK)-287 
AlkPhos-49 Amylase-44 TotBili-0.9
___ 07:50PM BLOOD ALT-28 AST-24 AlkPhos-46 TotBili-0.6
___ 05:25AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.1
___ 05:02AM BLOOD Calcium-8.3* Phos-3.8 Mg-1.8
___ 05:47AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.2
___ 05:55AM BLOOD TotProt-6.2* Albumin-4.4 Globuln-1.8* 
Iron-153 Cholest-165
___ 07:50PM BLOOD Albumin-4.3 Calcium-9.0 Phos-3.3 Mg-2.1
___ 05:55AM BLOOD calTIBC-347 Ferritn-134 TRF-267
___ 05:55AM BLOOD %HbA1c-5.9 eAG-123
___ 05:55AM BLOOD Triglyc-121 HDL-52 CHOL/HD-3.2 LDLcalc-89
___ 05:55AM BLOOD TSH-4.0
___ 05:55AM BLOOD CRP-4.1
 
Brief Hospital Course:
___ is a ___ year old right handed man with past medical 
history of hypertension who presented to OSH with L sided 
weakness, transferred to ___ after CTA at OSH revealed severe 
right internal carotid stenosis. He disclosed that he also had 2 
episodes of partial right monocular visual loss lasting several 
minutes, that he described as "curtain coming down".

Right ICA demonstrated significant stenosis with heterogenous
plaque. MRI confirmed acute-subacute infarcts in the distal 
cortex
in the right MCA territory. Carotid US showed high grade 
stenosis in the proximal and mid-ICA on the right with PSV up to 
400cm/s, 80-99% stenosis. Significant
post-stenotic waveform change. Left ICA with lesser plaque, 
50-69% by US criteria (PSV 167cm/s). TCD showed reversal of flow 
(collateralization pattern) of right
ophthalmic, antegrade flow with good velocities in both right 
MCA and ACA.

Likely the symptoms he presented with were related to 
TIA/infarcts that he has been having over the last week. Home 
lisinopril was held to allow blood pressure to autoregulate. He 
was started on heparin gtt and then transferred to vascular 
surgery for CEA procedure.

He is now s/p RIGHT CEA. For details of the procedure, please 
see the surgeon's operative  note. The patient tolerated the 
procedure well without  complications and was brought to the 
post-anesthesia care unit  in stable condition. After a brief 
stay, the patient was transferred to the vascular surgery floor 
where he remained 
through the rest of the hospitalization. 

Post-operatively, he did well without any groin swelling. He was 
able to tolerate a regular diet, get out of bed and ambulate 
without assistance, void without issues, and pain was controlled 
on oral medications alone. He was deemed ready for discharge, 
and was given the appropriate discharge and follow-up 
instructions. 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [___] 5 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*10 Tablet Refills:*0 
5.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
TRANSIENT ISCHEMIC ATTACKS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to ___ and 
underwent a RIGHT carotid endarterectomy. You have now recovered 
from surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery: 

WHAT TO EXPECT: 
 1. Surgical Incision: 
• It is normal to have some swelling and feel a firm ridge along 
the incision 
• Your incision may be slightly red and raised, it may feel 
irritated from the staples 
 2. You may have a sore throat and/or mild hoarseness 
• Try warm tea, throat lozenges or cool/cold beverages 
 3. You may have a mild headache, especially on the side of your 
surgery 
• Try ibuprofen, acetaminophen, or your discharge pain 
medication 
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office 
 4. It is normal to feel tired, this will last for ___ weeks 
• You should get up out of bed every day and gradually increase 
your activity each day 
• You may walk and you may go up and down stairs 
• Increase your activities as you can tolerate- do not do too 
much right away! 
 5. It is normal to have a decreased appetite, your appetite 
will return with time 
• You will probably lose your taste for food and lose some 
weight 
• Eat small frequent meals 
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication 

MEDICATION: 
• Take all of your medications as prescribed in your discharge 

ACTIVITIES: 
• No driving until post-op visit and you are no longer taking 
pain medications 
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit 
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry) 
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area 

CALL THE OFFICE FOR: ___
• Changes in vision (loss of vision, blurring, double vision, 
half vision) 
• Slurring of speech or difficulty finding correct words to use 
• Severe headache or worsening headache not controlled by pain 
medication 
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg 
• Trouble swallowing, breathing, or talking 
• Temperature greater than 101.5F for 24 hours 
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions 

 
Followup Instructions:
___